US04489003
11.3 g (0.057 mol) of 6-chloro-isatoic acid anhydride and 5.78 g (0.057 mol) of L-azetidine-2-carboxylic acid are heated to 125° in 50 ml of dimethyl sulphoxide for 2 hours. The mixture is subsequently evaporated to dryness in a high vacuum and the residue obtained is heated to 150° for 2 hours. By chromatography on silica gel while eluting with ethyl acetate there is obtained (S)-5-chloro-1,10a-dihydroazeto[2,1-c][1,4]benzodiazepine-4,10(2H,9H)-dione of melting point 225°-228°.

reactant | 6-chloro-isatoic acid anhydride | 0.057 mol, 11.3 g | ClC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4ClNO3
reactant | L-azetidine-2-carboxylic acid | 0.057 mol, 5.78 g | C1CN[C@@H]1C(=O)O | C4H7NO2
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
product | (S)-5-chloro-1,10a-dihydroazeto[2,1-c][1,4]benzodiazepine-4,10(2H,9H)-dione | ClC1=CC=CC2=C1C(N1[C@H](C(N2)=O)CC1)=O | C11H9ClN2O2
